US09388189B2
a) 3-Iodo-N,N-dimethyl-5-nitroaniline
1-Fluoro-3-iodo-5-nitrobenzene (500 mg, 1.87 mmol), and potassium carbonate (260 mg, 1.88 mmol) were suspended in DMSO (7 ml) and dimethylamine (2M in THF, 3 ml, 6 mmol) was added. The vial was sealed under argon and stirred for 15 min at 125° C. under microwave conditions. The reaction mixture was poured into 50 ml of water and extracted with ethyl acetate (3×40 ml). The organic phase was washed with brine (1×100 ml), dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) to obtain 320 mg (59% yield) of the title compound as a brown solid. Purity 100%.

reactant | 1-Fluoro-3-iodo-5-nitrobenzene | 1.87 mmol, 500 mg | FC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | potassium carbonate | 1.88 mmol, 260 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 6 mmol, 2M, 3 ml | CNC | C2H7N
reactant | water | 50 ml | O | H2O
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
product | 3-Iodo-N,N-dimethyl-5-nitroaniline | 320 mg, 59% yield | IC=1C=C(N(C)C)C=C(C1)[N+](=O)[O-] | C8H9IN2O2
